US06359134B1
N-(4-Bromobenzyl)-N,N-diisopropylamine
A mixture of 4-bromobenzylbromide (5.0 g), N,N-diisopropylamine (7.85 ml) and potassium carbonate (2.76 g) in dimethylformamide (50 ml) was stirred at 80° C. for 2 hours. To the mixture was added water, and the mixture was extracted with ether. The extract was washed with water, dried (MgSO4) and concentrated to give the title compound (5.0 g).

reactant | 4-bromobenzylbromide | 5.0 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | N,N-diisopropylamine | 7.85 ml | C(C)(C)NC(C)C | C6H15N
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-(4-Bromobenzyl)-N,N-diisopropylamine | 5.0 g | BrC1=CC=C(CN(C(C)C)C(C)C)C=C1 | C13H20BrN
